US06197798B1
A mixture of methyl 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylate (13.6 g, 46.3 mmol), and 1N NaOH (92.5 mL, 92.5 mmol) in 225 mL of ethanol is refluxed for 5 h. Water is added to the mixture and the aqueous layer is washed with ether. The aqueous layer is acidified with 1N HCl and extracted with ethyl acetate, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The product is purified by crystallization from ethyl acetate/hexanes to yield 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylic acid melting at 202-203° C. MS m/z 279 (M−1).

reactant | methyl 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylate | 46.3 mmol, 13.6 g | CC=1C=CC=C(C1C1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C16H13F3O2
reactant | NaOH | 92.5 mmol, 1N, 92.5 mL | [OH-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 225 mL | C(C)O | C2H6O
product | 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylic acid | CC=1C=CC=C(C1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C15H11F3O2
